US07569536B2
Isonicotinoyl chloride hydrochloride (704 mg, 3.95 mmol, commercially available product) and triethylamine (823 μl, 5.94 mmol) were sequentially added at 0° C. to a dichloromethane (6 ml) solution of 1-[2-amino-4-(trifluoromethyl)phenyl]-hexahydro-1H-azepine (512 mg, 1.98 mmol), obtained as described in Referential Example 4-2. The resulting mixture was stirred for one and a half hours. Water was added to the mixture, and the resulting mixture was extracted three times with dichloromethane. The obtained organic layer was washed with a saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (30 g, hexane/ethyl acetate=2/1). Thus, N-[2-(1-hexahydro-1H-azepinyl)-5-(trifluoromethyl)phenyl]isonicotinamide (GIF-0618) (697 mg, 97.0%) was yielded as a colorless solid.

reactant | Isonicotinoyl chloride hydrochloride | Cl.C(C1=CC=NC=C1)(=O)Cl
reactant | triethylamine | 5.94 mmol, 823 μl | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 6 ml | ClCCl | CH2Cl2
reactant | 1-[2-amino-4-(trifluoromethyl)phenyl]-hexahydro-1H-azepine | 1.98 mmol, 512 mg | NC1=C(C=CC(=C1)C(F)(F)F)N1CCCCCC1 | C13H17F3N2
solvent | Water | O | H2O
product | N-[2-(1-hexahydro-1H-azepinyl)-5-(trifluoromethyl)phenyl]isonicotinamide | 697 mg, 97.0% | N1(CCCCCC1)C1=C(C=C(C=C1)C(F)(F)F)NC(C1=CC=NC=C1)=O | C19H20F3N3O
